* Multiplier
         
.INCLUDE 45nm_MGK.pm
*********************************
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

.PARAM Lmin=45n
.PARAM Wmin=1u
.PARAM Ldiff=90n
	
Vdd vdd gnd 1.2v	

VA0 A0 1.2 0
VA1 A1 0 0
VB0 B0 0 0
VB1 B1 1.2 0

.subckt and in1 in2 o2 vdd gnd
	M1 a in2 gnd gnd nmos W={Wmin} L={Lmin} 
	M2 o in1 a   gnd nmos W={Wmin} L={Lmin} 
	M3 o in1 vdd vdd pmos W={Wmin} L={Lmin} 
	M4 o in2 vdd vdd pmos W={Wmin} L={Lmin} 
	X1 o o2 vdd gnd not
.ends

.subckt xor in1 in2 o2 vdd gnd
	X1 in1 in3 vdd gnd not
	X2 in2 in4 vdd gnd not
	M1 a   in1 gnd gnd nmos W={Wmin} L={Lmin} 
	M2 a   in4 gnd gnd nmos W={Wmin} L={Lmin} 
	M3 o2  in3 a   gnd nmos W={Wmin} L={Lmin}
	M4 o2  in2 a   gnd nmos W={Wmin} L={Lmin}	
	M5 o2  in1 b   vdd pmos W={Wmin} L={Lmin}
	M6 o2  in2 b   vdd pmos W={Wmin} L={Lmin}
	M7 b   in2 vdd vdd pmos W={Wmin} L={Lmin}
	M8 b   in4 vdd vdd pmos W={Wmin} L={Lmin}
.ends

.subckt not a b vdd gnd
	M1 b a gnd gnd nmos W={Wmin} L={Lmin}  
	M2 b a vdd vdd pmos W={Wmin} L={Lmin}  
.ends

X1 A0   B0   s0   vdd gnd and
X2 A1   B0   out2 vdd gnd and
X3 A0   B1   out3 vdd gnd and
X4 A1   B1   out4 vdd gnd and
X5 out2 out3 s1   vdd gnd xor
X6 out2 out3 c0   vdd gnd and
X7 c0   out4 cout vdd gnd and
X8 c0   out4 s2   vdd gnd xor

.CONTROL
op
* tran 1ps 10ps 0.1ps
* hardcopy plot.eps A0 A1+2 B0+4 B1+6 s0+8 s1+10 s2+12
print Vdd#branch 
* print Vdd#branch VB0#branch VB1#branch VA1#branch VA0#branch
run

.ENDC
.END